US04000144
Analogously to the method described in Example 16, the use of ethyl bromoacetate and p-(1-adamantyl)-phenol as starting materials gives 4-(1-adamantyl)-phenoxyacetic acid ethyl ester of melting point 89°-90° C (flakes; from etherpentane).

reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | p-(1-adamantyl)-phenol | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(C=C2)O | C16H20O
product | 4-(1-adamantyl)-phenoxyacetic acid ethyl ester | C(C)OC(COC1=CC=C(C=C1)C12CC3CC(CC(C1)C3)C2)=O | C20H26O3
